US08975400B2
5,6-difluoropyridin-3-ol
A mixture of hydrogen peroxide water (1.50 mL, 13.2 mmol) and 2,3-difluoro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (2.8 g) in tetrahydrofuran (15 mL) was stirred at room temperature for 2 h, then diluted with water and extracted with ethyl acetate. Combined organic portions were washed with aqueous 5% sodium thiosulfate solution and saturated saline water, dried over anhydrous sodium sulfate and concentrated. Purification via Biotage Spla HPFC system (C18, mobile phase: 0.01% NH4HCO3, CH3CN/water, 10˜95%) afforded the title product as a white solid (450 mg).

reactant | hydrogen peroxide water | 13.2 mmol, 1.50 mL | O.OO
reactant | 2,3-difluoro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 2.8 g | FC1=NC=C(C=C1F)B1OC(C(O1)(C)C)(C)C | C11H14BF2NO2
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 5,6-difluoropyridin-3-ol | 450 mg | FC=1C=C(C=NC1F)O | C5H3F2NO
